### PR TITLE
feat(RingTheory/DedekindDomain/SInteger): the ring of S-integers is a localization and a Dedekind Domain

### PR DESCRIPTION
**Pull request by fbarroero**
We prove
```
instance IsDedekindDomain.IsLocalizationSInteger. (R : Type *) [CommRing R] [IsDedekindDomain R]
  (S : Set (HeightOneSpectrum R)) (K : Type *) [Field K] [Algebra R K] [IsFractionRing R K]
  [Fact (Monoid.IsTorsion (ClassGroup R))] : IsLocalization S.Submonoid (S.integer K)
```
and
```
instance IsDedekindDomain.isDedekindDomainSInteger (R : Type *) [CommRing R] [IsDedekindDomain R]
  (S : Set (HeightOneSpectrum R)) (K : Type *) [Field K] [Algebra R K] [IsFractionRing R K]
  [Fact (Monoid.IsTorsion (ClassGroup R))] : IsDedekindDomain (S.integer K)
```

This is joint work with @larskuehne.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 1]
```diff
@@ -78,6 +83,17 @@ theorem integer_valuation_le_one (x : S.integer K) {v : HeightOneSpectrum R} (hv
     v.valuation K x ≤ 1 :=
   x.property v hv
 
+/-- The submonoid of non-zero elements of `R` that are not contained in any prime ideal away from
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:87]: I would argue that this definition does not need `R` to be Dedekind and that, in particular, it should live in `Mathlib.RingTheory.Ideal.Prime` (or whereabouts). Do you agree?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 2]
```diff
@@ -98,6 +114,91 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
   rintro ⟨y, rfl⟩ v
   exact v.valuation_le_one y
 
+open Ideal IsDedekindDomain.HeightOneSpectrum Set in
+private lemma sur [Fact (IsMulTorsion (ClassGroup R))] :
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]: Why do you want to make this private?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 3]
```diff
@@ -98,6 +114,91 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+    z * algebraMap R (S.integer K) x.2 = algebraMap R (S.integer K) x.1 := by
+  intro z
+  simp only [Prod.exists, Subtype.exists]
+  -- Let `T` be the finite set of places that have `v(z) > 1`.
+  let T := (Support.finite (R := R) (k := (z : K))).toFinset
+  -- `I` is the denominator ideal of `z`.
+  let I := ∏ v ∈ T, v.asIdeal ^ (WithZero.log (v.valuation K z)).toNat
+  have hI_ne_zero : I ≠ 0 := by
+    grind [Finset.prod_ne_zero_iff, pow_ne_zero, HeightOneSpectrum.ne_bot, bot_eq_zero]
+  /- Here we use the fact that the ClassGroup has finite order, so there exist `n > 0` and `α` such
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]:
```suggestion
  /- Here we use the fact that the class group has finite order, so there exist `n > 0` and `α` such
```

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 4]
```diff
@@ -98,6 +114,91 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+      (w.isMaximal.eq_of_le v.isPrime.ne_top' (IsPrime.le_of_pow_le hwle))] using hwT
+  apply hvS
+  contrapose! hvT
+  simp [T, HeightOneSpectrum.Support, integer_valuation_le_one S K z hvS]
+
+/-- The ring of `S`-integers is a localization of `R` at the multiplicative set `S`. -/
+instance IsLocalizationSInteger [Fact (IsMulTorsion (ClassGroup R))] :
+    IsLocalization S.submonoid <| S.integer K where
+  map_units y := by
+    obtain ⟨r, hr⟩ := y
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]:
```suggestion
  map_units := by
    rintro ⟨r, hr⟩
```

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 5]
```diff
@@ -98,6 +114,91 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+  exists_of_eq := fun h ↦
+    ⟨1, by simpa using (IsFractionRing.injective R K (congrArg Subtype.val h))⟩
+
+/-- The ring of `S`-integers is a Dedekind domain. -/
+instance isDedekindDomainSInteger [Fact (IsMulTorsion (ClassGroup R))] :
+    IsDedekindDomain (S.integer K) :=
+  IsLocalization.isDedekindDomain _ (fun _ h ↦ h.2 : S.submonoid ≤ nonZeroDivisors R) _
+
 end IsDedekindDomain
 /-! ## `S`-units -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:206]:
```suggestion

/-! ## `S`-units -/
```

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 6]
```diff
@@ -22,10 +23,14 @@ This file defines the subalgebra of `S`-integers of `K` and the subgroup of `S`-
 
 * `Set.integer`: `S`-integers.
 * `Set.unit`: `S`-units.
-* TODO: localised notation for `S`-integers.
+* `Set.submonoid`: the submonoid of non-zero elements of `R` that are not contained in any prime
+    ideal away from `S`.
 
 ## Main statements
 
+* `IsDedekindDomain.IsLocalizationSInteger`: The ring of `S`-integers is a localization of `R`.
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]: You should add the assumption that the class group is finite here.

**Review by faenuccio — COMMENTED** [review]
Thanks, I left some comments. Would it be possible to connect your main definitino to Ideal.primeCompl whenever `S` is a singleton?

**Comment by fbarroero** [comment]
> Thanks, I left some comments. Would it be possible to connect your main definitino to Ideal.primeCompl whenever `S` is a singleton?

Thanks for the comments and suggestions. I made an attempt and formulated
```
Ideal.iInfPrimeCompl {α : Type u} [Semiring α] {ι : Type u_1} (P : ι → Ideal α) [∀ (i : ι), (P i).IsPrime] :
  Submonoid α := ⨅ i, (P i).primeCompl
```
with some very basic APIs.
This generalizes `Ideal.primeCompl`.

I also added 
```
theorem submonoid_eq_primeCompl (P : HeightOneSpectrum R) :
    ({v | v ≠ P}).submonoid = Ideal.primeCompl P ⊓ nonZeroDivisors R 
```

One could also generalize [IsLocalization.AtPrime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/AtPrime/Basic.html#IsLocalization.AtPrime) and localize at the complement of a family of primes... But this should not be done in this PR.

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 7]
```diff
@@ -78,6 +84,18 @@ theorem integer_valuation_le_one (x : S.integer K) {v : HeightOneSpectrum R} (hv
     v.valuation K x ≤ 1 :=
   x.property v hv
 
+/-- The submonoid of non-zero elements of `R` that are not contained in any prime ideal away from
+    `S`. -/
+def submonoid : Submonoid R :=
+  Ideal.iInfPrimeCompl (fun v : {v : HeightOneSpectrum R | v ∉ S} ↦ v.1.asIdeal) ⊓
+    nonZeroDivisors R
+
+omit [IsDedekindDomain R] in
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:93]: Why don't you directly scrap the assumption on `R` from the definition?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 8]
```diff
@@ -78,6 +84,18 @@ theorem integer_valuation_le_one (x : S.integer K) {v : HeightOneSpectrum R} (hv
     v.valuation K x ≤ 1 :=
   x.property v hv
 
+/-- The submonoid of non-zero elements of `R` that are not contained in any prime ideal away from
+    `S`. -/
+def submonoid : Submonoid R :=
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:89]: I'm not very happy with this name: it is in the `Set` namespace (which is OK to use dot notation), but `S.submonoid`  might be interpreted in many ways. What about putting this in the `Localization` namespace?

File: Mathlib/RingTheory/Ideal/Prime.lean [hunk 9]
```diff
@@ -128,6 +128,23 @@ theorem primeCompl_bot [Nontrivial α] [NoZeroDivisors α] :
   ext
   simp
 
+/-- The elements lying outside every prime ideal in an indexed family form a submonoid. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/Ideal/Prime.lean:131]: Thanks,this is certainly useful but I would also (or only?) add the corresponding versions for a set of ideals, since in the other file `S` is of type `Set (HeightOnePrimeSpectrum)`. As a matter of fact, why do you want to use terms in `HeightOnePrimeSpectrum` for that definition? It is restricting the definition to primes of height 1 for no good reason, right?

File: Mathlib/RingTheory/Ideal/Prime.lean [hunk 10]
```diff
@@ -125,6 +125,45 @@ theorem primeCompl_bot [Nontrivial α] [NoZeroDivisors α] :
   ext
   simp
 
+/-- The elements lying outside every ideal in a set of prime ideals form a submonoid. -/
+def iInfPrimeCompl {S : Set (Ideal α)} (hS : ∀ P ∈ S, P.IsPrime) : Submonoid α :=
+  ⨅ P : S, P.val.primeCompl (hp := hS P.val P.prop)
```
Comment (faenuccio) [inline Mathlib/RingTheory/Ideal/Prime.lean]:
```suggestion
/-- The elements lying outside every ideal in a set of prime ideals form a submonoid. -/
@[no_expose]
def iInfPrimeCompl {S : Set (Ideal α)} (hS : ∀ P ∈ S, P.IsPrime) : Submonoid α :=
  ⨅ P : S, P.val.primeCompl (hp := hS P.val P.prop)
```
I would prefer avoiding exposing this (which changes one proof below from `rfl` to `by rfl`)

Also, why do you call it `iInf` if it is an `inf` over a set (so, I'd write `sInf`?)

Comment (faenuccio) [inline Mathlib/RingTheory/Ideal/Prime.lean]:
```suggestion
  ⨅ P ∈ S, P.primeCompl (hp := hS P (by assumption))
```

File: Mathlib/RingTheory/Ideal/Prime.lean [hunk 11]
```diff
@@ -125,6 +125,45 @@ theorem primeCompl_bot [Nontrivial α] [NoZeroDivisors α] :
...
+  simp
+
+@[simp]
+theorem iInfPrimeCompl_singleton (P : Ideal α) [P.IsPrime] :
+    iInfPrimeCompl (S := {P}) (by simp_all) = P.primeCompl := by
+  ext
+  simp
+
+theorem iInfPrimeCompl_union {S T : Set (Ideal α)} (hST : ∀ P ∈ S ∪ T, P.IsPrime) :
+    iInfPrimeCompl hST = iInfPrimeCompl (fun P hP ↦ hST P (Or.inl hP)) ⊓
```
Comment (faenuccio) [inline Mathlib/RingTheory/Ideal/Prime.lean]: Do you have a way to express this avoiding `defeq` between Or and Union?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 12]
```diff
@@ -98,11 +118,99 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+      IsFractionRing.to_map_ne_zero_of_mem_nonZeroDivisors hr.2
+    refine ⟨⟨⟨_, fun v _ ↦ v.valuation_le_one r⟩, ⟨(algebraMap R K r)⁻¹,
+        fun _ _ ↦ by simp_all [Localization.submonoid, HeightOneSpectrum.valuation_of_algebraMap,
+          HeightOneSpectrum.intValuation_eq_one_iff.2]⟩,
+      by simp [Subtype.ext_iff, h₀], by simp [Subtype.ext_iff, h₀]⟩, rfl⟩
+  surj := exists_mul_algebraMap_eq_algebraMap R S K
+  exists_of_eq := fun h ↦
+    ⟨1, by simpa using (IsFractionRing.injective R K (congrArg Subtype.val h))⟩
+
+/-- The ring of `S`-integers is a Dedekind domain. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]:
```suggestion
/-- The ring of `S`-integers is a Dedekind domain when the every element in class group has finite order. -/
```

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 13]
```diff
@@ -98,11 +118,99 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
   rintro ⟨y, rfl⟩ v
   exact v.valuation_le_one y
 
+open Ideal IsDedekindDomain.HeightOneSpectrum Set in
+lemma exists_mul_algebraMap_eq_algebraMap [Fact (IsMulTorsion (ClassGroup R))] :
+    ∀ z : S.integer K, ∃ x : R × Localization.submonoid S,
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]: I would prefer to state this lemma with `z : S.integer` as a variable rather than with a `∀ z`.

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 14]
```diff
@@ -98,11 +118,99 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+  have hvT : v ∈ T := by
+    obtain ⟨w, hwT, hwle⟩ := v.isPrime.prod_le.1 <|
+      IsPrime.le_of_pow_le (by rwa [hα, span_singleton_le_iff_mem v.asIdeal])
+    simpa [HeightOneSpectrum.ext
+      (w.isMaximal.eq_of_le v.isPrime.ne_top' (IsPrime.le_of_pow_le hwle))] using hwT
+  apply hvS
+  contrapose! hvT
+  simp [T, HeightOneSpectrum.Support, integer_valuation_le_one S K z hvS]
+
+/-- The ring of `S`-integers is a localization of `R` at the multiplicative set `S`. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]:
```suggestion
/-- When every class in the class group has finite order, the ring of `S`-integers is a localization of `R` at the multiplicative set `S`. -/
```

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 15]
```diff
@@ -98,11 +118,99 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+  rintro _ ⟨v, hvS, rfl⟩ _
+  -- `α ∈ v.asIdeal` and `I ^ n = R ∙ α` imply that `v` is in `T`.
+  have hvT : v ∈ T := by
+    obtain ⟨w, hwT, hwle⟩ := v.isPrime.prod_le.1 <|
+      IsPrime.le_of_pow_le (by rwa [hα, span_singleton_le_iff_mem v.asIdeal])
+    simpa [HeightOneSpectrum.ext
+      (w.isMaximal.eq_of_le v.isPrime.ne_top' (IsPrime.le_of_pow_le hwle))] using hwT
+  apply hvS
+  contrapose! hvT
+  simp [T, HeightOneSpectrum.Support, integer_valuation_le_one S K z hvS]
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:190]:
```suggestion
  contrapose hvT
```
You don't need `contrapose!` here, but I'm a bit lost: isn't `T` a subset of `S`? If yes, can't you deduce `v ∈ S` from `hvT` directly?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 16]
```diff
@@ -98,11 +118,99 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+  have hI_ne_zero : I ≠ 0 := by
+    grind [Finset.prod_ne_zero_iff, pow_ne_zero, HeightOneSpectrum.ne_bot, bot_eq_zero]
+  /- Here we use the fact that the class group has finite order, so there exist `n > 0` and `α` such
+  that `I ^ n` is generated by `α`. -/
+  let I₀ : (Ideal R)⁰ := ⟨I, mem_nonZeroDivisors_iff_ne_zero.mpr hI_ne_zero⟩
+  obtain ⟨n, hn, _⟩ := isOfFinOrder_iff_pow_eq_one.1
+    ((Fact.out : IsMulTorsion (ClassGroup R)) (ClassGroup.mk0 I₀))
+  obtain ⟨α, hα⟩ : (I ^ n).IsPrincipal := by
+    simp_all [← MonoidHom.map_pow, ClassGroup.mk0_eq_one_iff, I₀]
+  have hα_mem_pow (v : HeightOneSpectrum R) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean]: Would it be possible to factor out this `hα_mem_pow` as an independent lemma?

**Review by faenuccio — COMMENTED** [review]
Thanks, I've added some more comments on the main proof.

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean (hunk 15 above)
Comment (fbarroero) [reply Mathlib/RingTheory/DedekindDomain/SInteger.lean:190]: Yes, but you would prove it like that
```
have hT_subset : ↑T ⊆ S := by
    intro w hw
    contrapose hw
    simp [T, HeightOneSpectrum.Support, integer_valuation_le_one S K z hw]
```
So one might as well leave it as it is.

**Comment by faenuccio** [comment]
The whole PR LGTM, but admittedly the proof of your lemma `exists_mul_algebraMap_eq_algebraMap` (l. 142 of `Mathlib.RingTheory.DedekindDomain.SInteger`) is quite long: I would appreciate a second look by @riccardobrasca or @xroblot to see if they have suggestion, but if not I'm happy to merge.

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 17]
```diff
@@ -98,11 +118,108 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+      IsPrime.le_of_pow_le (by rwa [hα, span_singleton_le_iff_mem v.asIdeal])
+    simpa [HeightOneSpectrum.ext
+      (w.isMaximal.eq_of_le v.isPrime.ne_top' (IsPrime.le_of_pow_le hwle))] using hwT
+  apply hvS
+  contrapose hvT
+  simp [T, HeightOneSpectrum.Support, integer_valuation_le_one S K z hvS]
+
+/-- When every class in the class group has finite order, the ring of `S`-integers is a localization
+  of `R` at the multiplicative set `S`. -/
+instance IsLocalizationSInteger [Fact (IsMulTorsion (ClassGroup R))] :
```
Comment (xroblot) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:194]: Shouldn't that be "isLocalizationSInteger"

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 18]
```diff
@@ -22,10 +23,15 @@ This file defines the subalgebra of `S`-integers of `K` and the subgroup of `S`-
...
 * `Set.integer`: `S`-integers.
 * `Set.unit`: `S`-units.
-* TODO: localised notation for `S`-integers.
+* `Localization.submonoid`: the submonoid of non-zero elements of `R` that are not contained in any
+    prime ideal away from `S`.
 
 ## Main statements
 
+* `IsDedekindDomain.IsLocalizationSInteger`: The ring of `S`-integers is a localization of `R` if
+  the class group of `R` is finite.
```
Comment (xroblot) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:32]:
```suggestion
* `IsDedekindDomain.IsLocalizationSInteger`: The ring of `S`-integers is a localization of `R` if
  every class in the class group has finite order.
```

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 19]
```diff
@@ -22,10 +23,15 @@ This file defines the subalgebra of `S`-integers of `K` and the subgroup of `S`-
...
+* `IsDedekindDomain.isDedekindDomainSInteger`: The ring of `S`-integers of a Dedekind domain with
+  finite class group is a Dedekind domain.
```
Comment (xroblot) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:34]:
```suggestion
* `IsDedekindDomain.isDedekindDomainSInteger`: The ring of `S`-integers of a Dedekind domain with
  every class in the class group of finite order is a Dedekind domain.
```

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 20]
```diff
@@ -98,11 +118,108 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
   exact v.valuation_le_one y
 
+open Ideal IsDedekindDomain.HeightOneSpectrum in
+/-- A generator of a positive power of the denominator ideal of `z` belongs to each of its prime
+power factors. -/
+lemma mem_prime_pow_of_span_eq_prod (z : K) {n : ℕ} (hn : n ≠ 0) {α : R}
+    (hα : span {α} = (∏ v ∈ (Support.finite (R := R) z).toFinset,
+    v.asIdeal ^ (v.valuation K z).log.toNat) ^ n) (v : HeightOneSpectrum R) :
+    α ∈ v.asIdeal ^ (v.valuation K z).log.toNat := by
+  let T := (Support.finite (R := R) z).toFinset
```
Comment (xroblot) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:128]: Maybe it would be a good idea to define something like: 
```
def HeightOneSpectrum.supportFinset (z : K) : Finset (HeightOneSpectrum R) :=
    (Support.finite (R := R) z).toFinset
```
since it is used at several places

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 21]
```diff
@@ -98,11 +118,108 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
   rintro ⟨y, rfl⟩ v
   exact v.valuation_le_one y
 
+open Ideal IsDedekindDomain.HeightOneSpectrum in
+/-- A generator of a positive power of the denominator ideal of `z` belongs to each of its prime
+power factors. -/
+lemma mem_prime_pow_of_span_eq_prod (z : K) {n : ℕ} (hn : n ≠ 0) {α : R}
```
Comment (xroblot) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:124]: This lemma is very specific. Should it be marked private?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 22]
```diff
@@ -98,11 +118,108 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+    _ ≤ T.inf fun v ↦ v.asIdeal ^ (v.valuation K z).log.toNat := prod_le_inf
+    _ ≤ v.asIdeal ^ (v.valuation K z).log.toNat := by
+      by_cases hvT : v ∈ T
+      · exact Finset.inf_le hvT
+      · by_cases hz : z = 0
+        · simp [hz]
+        · simp_all [Int.toNat_eq_zero.mpr, WithZero.log_le_iff_le_exp, T, Support]
+
+open Ideal IsDedekindDomain.HeightOneSpectrum Set in
+lemma exists_mul_algebraMap_eq_algebraMap [Fact (IsMulTorsion (ClassGroup R))] (z : S.integer K) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:142]:
```lean
lean
open Ideal IsDedekindDomain.HeightOneSpectrum in
lemma exists_mul_algebraMap_eq_algebraMap [Fact (IsMulTorsion (ClassGroup R))]
    (z : S.integer K) : ∃ x : R × Localization.submonoid S,
      z * algebraMap R (S.integer K) x.2 = algebraMap R (S.integer K) x.1 := by
  -- `D` is the ideal of denominators of `z`.
  let D : Ideal R := (1 : Submodule R K).colon (Submodule.span R {(z : K)})
  have hD {r : R} : r ∈ D ↔ ∃ b : R, algebraMap R K b = algebraMap R K r * z := by
    simp [D, Submodule.mem_colon_singleton, Submodule.mem_one, Algebra.smul_def]
  have hD_ne_zero : D ≠ 0 := by
    obtain ⟨⟨a, b⟩, h⟩ := IsLocalization.surj R⁰ (z : K)
    exact fun h0 ↦ nonZeroDivisors.ne_zero b.2 <| by
      simpa [h0] using hD.2 ⟨a, ((mul_comm _ _).trans h).symm⟩
  -- `D` is not contained in any prime `v ∉ S`, since `z` is a `v`-integer for such `v`.
  have hD_not_le {v : HeightOneSpectrum R} (hv : v ∉ S) : ¬ D ≤ v.asIdeal := fun hle ↦ by
    obtain ⟨n, d, hnd⟩ :=
      exists_primeCompl_mul_eq_of_integer v (z : K) (Set.integer_valuation_le_one S K z hv)
    exact d.2 (hle (hD.2 ⟨n, ((mul_comm _ _).trans hnd).symm⟩))
  -- Since the class group is torsion, `D ^ n = (α)` for some `n ≠ 0` and `α ∈ R`.
  have hD_mem : D ∈ (Ideal R)⁰ := mem_nonZeroDivisors_iff_ne_zero.2 hD_ne_zero
  obtain ⟨n, hn, hpow⟩ := isOfFinOrder_iff_pow_eq_one.1 <|
    (Fact.out : IsMulTorsion (ClassGroup R)) (ClassGroup.mk0 ⟨D, hD_mem⟩)
  obtain ⟨α, hα⟩ : (D ^ n).IsPrincipal := by
    rw [← ClassGroup.mk0_eq_one_iff (pow_mem hD_mem n), ← hpow, ← map_pow]; rfl
  have hα_mem : α ∈ D := pow_le_self hn.ne' (hα ▸ Submodule.mem_span_singleton_self α)
  obtain ⟨β, hβ⟩ := hD.1 hα_mem
  have hα_mem' : α ∈ Localization.submonoid S := by
    rw [Localization.submonoid, Submonoid.mem_inf, mem_sInfPrimeCompl_iff,
      mem_nonZeroDivisors_iff_ne_zero]
    refine ⟨?_, ?_⟩
    · rintro _ ⟨v, hv, rfl⟩ hαv
      exact hD_not_le hv <| IsPrime.le_of_pow_le <|
        hα.trans_le ((span_singleton_le_iff_mem v.asIdeal).2 hαv)
    · rintro rfl
      exact hD_ne_zero (pow_eq_zero_iff hn.ne' |>.1 (by simpa using hα))
  exact ⟨(β, ⟨α, hα_mem'⟩), SetLike.coe_eq_coe.mp ((hβ.trans (mul_comm _ _)).symm)⟩
```
if you want a shorter proof (note that you need to import `Mathlib.RingTheory.DedekindDomain.AdicValuation` and you can remove `mem_prime_pow_of_span_eq_prod`).

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean (hunk 17 above)
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:194]: This instance never fires, as the `Fact ...` cannot be found. Can you add an instance that uses something like `Fintype (ClassGroup (𝓞 K))`?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 23]
```diff
@@ -80,9 +88,21 @@ theorem integer_valuation_le_one (x : S.integer K) {v : HeightOneSpectrum R} (hv
...
+    away from `S`. -/
+def Localization.submonoid : Submonoid R := Ideal.sInfPrimeCompl
+  (S := (fun v : HeightOneSpectrum R ↦ v.asIdeal) '' Sᶜ)
+  (by rintro _ ⟨v, _, rfl⟩; exact v.isPrime) ⊓ nonZeroDivisors R
+
+@[simp]
+lemma Localization.submonoid_eq_primeCompl (P : HeightOneSpectrum R) :
+    submonoid {v | v ≠ P} = Ideal.primeCompl P ⊓ nonZeroDivisors R := by
+  ext
+  simp [Localization.submonoid]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:101]: The fact that you unfold `Localization.submonoid` is telling us that you are missing some API. You probably want something  like a `simp` lemma `mem_submonoid_iff` saying that `x ≠ 0 ∧ ∀ v ∉ S, x ∉ v.asIdeal`

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 24]
```diff
@@ -98,11 +118,108 @@ just `R` itself, via `Algebra.botEquivOfInjective` and `IsFractionRing.injective
...
+  surj := exists_mul_algebraMap_eq_algebraMap R S K
+  exists_of_eq := fun h ↦
+    ⟨1, by simpa using (IsFractionRing.injective R K (congrArg Subtype.val h))⟩
+
+/-- The ring of `S`-integers is a Dedekind domain when the every element in class group has finite
+  order. -/
+instance isDedekindDomainSInteger [Fact (IsMulTorsion (ClassGroup R))] :
+    IsDedekindDomain (S.integer K) :=
+  IsLocalization.isDedekindDomain _
+    (fun _ h ↦ h.2 : Localization.submonoid S ≤ nonZeroDivisors R) _
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:213]: Can you use `inf_le_right` here?

File: Mathlib/RingTheory/DedekindDomain/SInteger.lean [hunk 25]
```diff
@@ -80,9 +88,21 @@ theorem integer_valuation_le_one (x : S.integer K) {v : HeightOneSpectrum R} (hv
...
 
+/-- The submonoid of non-zero elements of `R` that are not contained in any non-zero prime ideal
+    away from `S`. -/
+def Localization.submonoid : Submonoid R := Ideal.sInfPrimeCompl
+  (S := (fun v : HeightOneSpectrum R ↦ v.asIdeal) '' Sᶜ)
+  (by rintro _ ⟨v, _, rfl⟩; exact v.isPrime) ⊓ nonZeroDivisors R
+
+@[simp]
+lemma Localization.submonoid_eq_primeCompl (P : HeightOneSpectrum R) :
+    submonoid {v | v ≠ P} = Ideal.primeCompl P ⊓ nonZeroDivisors R := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/SInteger.lean:99]: This should be stated about `{P}ᶜ`.

File: Mathlib/RingTheory/Ideal/Prime.lean [hunk 26]
```diff
@@ -125,6 +125,47 @@ theorem primeCompl_bot [Nontrivial α] [NoZeroDivisors α] :
   ext
   simp
 
+/-- The elements lying outside every ideal in a set of prime ideals form a submonoid. -/
+@[no_expose]
+def sInfPrimeCompl {S : Set (Ideal α)} (hS : ∀ P ∈ S, P.IsPrime) : Submonoid α :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Prime.lean:130]: Maybe `S` should be explicit here, you need a lot of `:=`. Also, you can use a `variable` line.

File: Mathlib/RingTheory/Ideal/Prime.lean [hunk 27]
```diff
@@ -125,6 +125,47 @@ theorem primeCompl_bot [Nontrivial α] [NoZeroDivisors α] :
...
+    sInfPrimeCompl hST =
+      sInfPrimeCompl (fun P hP ↦ hST P (Set.mem_union_left T hP)) ⊓
+      sInfPrimeCompl (fun P hP ↦ hST P (Set.mem_union_right S hP)) := by
+  aesop
+
+theorem sInfPrimeCompl_le_primeCompl {S : Set (Ideal α)} (hS : ∀ P ∈ S, P.IsPrime)
+    {P : Ideal α} (hP : P ∈ S) : sInfPrimeCompl hS ≤ P.primeCompl (hp := hS P hP) :=
+  fun _ hx ↦ (mem_sInfPrimeCompl_iff hS).mp hx P hP
+
+theorem sInfPrimeCompl_antitone {S T : Set (Ideal α)} (hP : ∀ P ∈ S ∪ T, P.IsPrime) (hST : S ⊆ T) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Prime.lean:162]:
```suggestion
theorem sInfPrimeCompl_anti {S T : Set (Ideal α)} (hP : ∀ P ∈ S ∪ T, P.IsPrime) (hST : S ⊆ T) :
```
Also, `hP` is strangely formulated given that `S` is inside `T`.

File: Mathlib/RingTheory/Ideal/Prime.lean [hunk 28]
```diff
@@ -125,6 +125,47 @@ theorem primeCompl_bot [Nontrivial α] [NoZeroDivisors α] :
   ext
   simp
 
+/-- The elements lying outside every ideal in a set of prime ideals form a submonoid. -/
+@[no_expose]
+def sInfPrimeCompl {S : Set (Ideal α)} (hS : ∀ P ∈ S, P.IsPrime) : Submonoid α :=
+  ⨅ P ∈ S, P.primeCompl (hp := hS P (by assumption))
+
+lemma sInfPrimeCompl_def {S : Set (Ideal α)} (hS : ∀ P ∈ S, P.IsPrime) :
+    sInfPrimeCompl hS = ⨅ P ∈ S, P.primeCompl (hp := hS P (by assumption)) := by rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Prime.lean:134]:
```suggestion
    sInfPrimeCompl hS = ⨅ P ∈ S, P.primeCompl (hp := hS P (by assumption)) := rfl
```

**Review by riccardobrasca — COMMENTED** [review]
Can you update the PR description?
